US09376420B2
Step 1: 4-(3-bromo-phenyl)-2-oxo-3-butenoic acid potassium salt
To a mixture of 3-Bromobenzaldehyde (22.0 mL, 189.0 mmol) and pyruvic acid (15.8 mL, 227.0 mmol) in methanol (100.0 mL), was slowly added a solution of potassium hydroxide (19.0 g, 340.0 mmol) in methanol (100.0 mL) at 0° C. The reaction mixture was stirred at room temperature for 16 hours and then filtered. The resulting solid was washed with diethyl ether to give 47.0 g of the titled compound as a yellow solid.

reactant | 3-Bromobenzaldehyde | 189.0 mmol, 22.0 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | pyruvic acid | 227.0 mmol, 15.8 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | potassium hydroxide | 340.0 mmol, 19.0 g | [OH-].[K+]
solvent | methanol | 100.0 mL | CO | CH4O
solvent | methanol | 100.0 mL | CO | CH4O
product | 4-(3-bromo-phenyl)-2-oxo-3-butenoic acid potassium salt | 47.0 g | [K+].BrC=1C=C(C=CC1)C=CC(C(=O)[O-])=O | InChI=1S/C10H7BrO3.K/c11-8-3-1-2-7(6-8)4-5-9(12)10(13)14;/h1-6H,(H,13,14);/q;+1/p-1
